US07265246B2
Prepare a solution of (2-methylthiazol-4-yl)acetic acid ethyl ester (17 g, 92 mmol) in tetrahydrofuran/water (1:1, 400 mL). Add potassium hydroxide (10.3 g, 184 mmol). Stir the reaction at room temperature for 1 hour. Concentrate the solution in vacuo to remove the tetrahydrofuran then acidify with 1N HCl. Extract the aqueous solution with CHCl3. Wash the resulting organic phase with brine (200 mL), dry (Na2SO4), filter and concentrate in vacuo to afford (2-methylthiazol-4-yl)acetic acid (11.3 g) as a solid. 1H NMR (CDCl3) δ 7.00 (s, 1H), 3.85 (s, 2H), 2.71 (s, 3H).

reactant | (2-methylthiazol-4-yl)acetic acid ethyl ester | 92 mmol, 17 g | C(C)OC(CC=1N=C(SC1)C)=O | C8H11NO2S
reactant | potassium hydroxide | 184 mmol, 10.3 g | [OH-].[K+]
solvent | tetrahydrofuran water | 400 mL | O1CCCC1.O
product | (2-methylthiazol-4-yl)acetic acid | 11.3 g | CC=1SC=C(N1)CC(=O)O | C6H7NO2S
